US07160888B2
Synthesis of 6-Fluoro-7-[4-(4-naphthalen-1-yl-piperazin-1-yl)-butoxy]-3,4-dihydro-1H-[1,8]naphthyridin-2-one
The title compound was prepared by reductive amination of 4-(3-fluoro-7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde with 1-naphthalen-1-yl-piperazine hydrochloride according to the above procedure. MS: APCI: M+1: 449.1 (Exact Mass: 448.23).

reactant | 4-(3-fluoro-7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde | FC=1C(=NC=2NC(CCC2C1)=O)OCCCC=O | C12H13FN2O3
reactant | 1-naphthalen-1-yl-piperazine hydrochloride | Cl.C1(=CC=CC2=CC=CC=C12)N1CCNCC1
product | 6-Fluoro-7-[4-(4-naphthalen-1-yl-piperazin-1-yl)-butoxy]-3,4-dihydro-1H-[1,8]naphthyridin-2-one | FC=1C=C2CCC(NC2=NC1OCCCCN1CCN(CC1)C1=CC=CC2=CC=CC=C12)=O | C26H29FN4O2
